US05438136
Step B: 2-(t-Butoxycarbonylamino)ethanol
To a solution of 2.8 g (33 mmol) of sodium bicarbonate and 3.65 g (16.7 mmol) of di-t-butyl dicarbonate in 32 mL of a mixture of tetrahydrofuran and water (3:1) was added dropwise via syringe 1.0 mL (17 mmol) of 2-aminoethanol. The reaction mixture was stirred at room temperature for 4 hours then poured into 100 mL of ethyl acetate. The mixture was washed with 100 mL of water, 100 mL of saturated aqueous ammonium chloride and 100 mL of brine. The organic layer was removed, dried over magnesium sulfate, filtered and the solvent removed under vaccum. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate/hexanes (65:35) to afford 2.27g (85%) of the product as a clear oil. 1H NMR (200 MHz, CDCl3): δ1.52 (s, 9H), 3.34 (t, 4 Hz, 2H), 3.76 (t, 4 Hz, 2H).

reactant | sodium bicarbonate | 33 mmol, 2.8 g | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 16.7 mmol, 3.65 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 2-aminoethanol | 17 mmol, 1.0 mL | NCCO | C2H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(t-Butoxycarbonylamino)ethanol | 2.27g, 85% | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
